US08048902B2
3′-hydroxyacetophenone and (S)-(−)-2-methyl-CBS-oxazaborolidine were reacted as described in Example 35, Step 1 to provide 3-((R)-1-hydroxy-ethyl)-phenol.

reactant | 3′-hydroxyacetophenone | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | (S)-(−)-2-methyl-CBS-oxazaborolidine | B1(N2CCC[C@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
product | 3-((R)-1-hydroxy-ethyl)-phenol | O[C@H](C)C=1C=C(C=CC1)O | C8H10O2
